US06369057B1
A) (2RS)-N-(4-Chloro-2-cyclopropylaminophenyl)-(2-bromopropionamide)
4-Chloro-2-cyclopropylaminonitrobenzene (2.10 g, 0.01 mol) was hydrogenated in 100 ml of methanol with Raney nickel catalysis, using 1 atm hydrogen. After the calculated amount of hydrogen had been taken up, the process was stopped, the catalyst was removed by filtration with suction, and the solvent was stripped off in vacuo. To remove water completely, the mixture was taken up twice in methanol and reconcentrated. 4-Chloro-2-cyclopropylaminoaniline (1.80 g), which remained in the form of a brown oil, was dissolved in 50 ml of anhydrous 1,2-dimethoxyethane and cooled to −60° C., with stirring. A solution of 1.1 ml (0.01 mol) of 2-bromopropionyl chloride in 5 ml of anhydrous 1,2-dimethoxyethane was slowly added dropwise, and stirring of the reaction mixture was continued for 2 hours at −60-−70° C. The mixture was then allowed to warm to approx. −20° C. and poured into 150 ml of ice-cold, saturated aqueous sodium hydrogen carbonate solution. The mixture was extracted twice using ethyl acetate, and the organic phase was washed once with water, dried (sodium sulfate) and concentrated in vacuo. After crystallization with diethyl ether/pentane, 2.51 g (79%) of the desired product of melting point 130° C. remained.

reactant | 4-Chloro-2-cyclopropylaminonitrobenzene | 0.01 mol, 2.10 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])NC1CC1 | C9H9ClN2O2
reactant | hydrogen | [H][H] | H2
reactant | 2-bromopropionyl chloride | 0.01 mol, 1.1 ml | BrC(C(=O)Cl)C | C3H4BrClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | (2RS)-N-(4-Chloro-2-cyclopropylaminophenyl)-(2-bromopropionamide) | ClC1=CC(=C(C=C1)NC(C(C)Br)=O)NC1CC1 | C12H14BrClN2O
